US07531532B2
N-(4-Fluorophenyl)-N′-(4-{2-[(pyrrolidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)malonamide
4-(4-Aminophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine (30 mg) was dissolved in N,N-dimethylformamide (1 ml) under a nitrogen atmosphere, and then N-(4-fluorophenyl)malonic acid (59.5 mg), triethylamine (0.042 ml) and (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate (134 mg) were added thereto at 50° C., followed by stirring at the same temperature for 30 min. The reaction mixture was cooled down to room temperature, and partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, a saturated aqueous solution of ammonium chloride, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:5, then ethyl acetate). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (2 ml)-hexane (2 ml) was added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (40.4 mg, 83.4%) as a pale brown solid.

reactant | 4-(4-Aminophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 30 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1 | C16H18N4O2
reactant | triethylamine | 0.042 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate | 134 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | hexane | 2 ml | CCCCCC | C6H14
product | N-(4-Fluorophenyl)-N′-(4-{2-[(pyrrolidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)malonamide | 40.4 mg, 83.4% | FC1=CC=C(C=C1)NC(CC(=O)NC1=CC=C(C=C1)OC1=CC(=NC=C1)NC(=O)N1CCCC1)=O | C25H24FN5O4
